data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCOC1CCC(CC)(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N1C(=O)Cc1cn(C)c2ccccc12.[Rh]", "products": "CCOC1CCC(CC)(C(=O)[C](=[Rh])C(=O)OC)C(=O)N1C(=O)Cc1cn(C)c2ccccc12.N#N"}, {"reactants": "CCOC1CCC(CC)(C(=O)[C](=[Rh])C(=O)OC)C(=O)N1C(=O)Cc1cn(C)c2ccccc12", "products": "CCOC1CCC2(CC)C(=O)[C-](C(=O)OC)[O+]=C2N1C(=O)Cc1cn(C)c2ccccc12.[Rh]"}, {"reactants": "CCOC1CCC2(CC)C(=O)[C-](C(=O)OC)[O+]=C2N1C(=O)Cc1cn(C)c2ccccc12", "products": "CCOC1CCC2(CC)C(=O)C3(C(=O)OC)OC24N1C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1Cl", "products": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1Cl"}, {"reactants": "COc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1Cl", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(OC)c1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(OC)c1Cl", "products": "COc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1Cl"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1C", "products": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1C"}, {"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1C", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)c(C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)c(C)c1", "products": "Cc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1C"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(Cl)c1C.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1C"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1C", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1C.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(Cl)c1C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(Cl)c2C)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(Cl)c1C"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(Cl)c1C", "products": "COc1cc2c(c(Cl)c1C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(Cl)c1C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(Cl)c1C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(Cl)c1C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(Cl)c1C)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(Cl)c1C)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(Cl)c1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "Cc1cccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "Cc1cccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1cccc(C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1cccc(C)c1", "products": "Cc1cccc(C(C)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
